US07091227B2
N-(6-Chloro-5-nitro-1,3-benzothiazol-2-yl)-N′-ethylurea
Three grams of N-(6-chloro-1,3-benzothiazol-2-yl)-N′-ethylurea was dissolved in about 15 mL of concentrated sulfuric acid (about 92–94%). The solution was cooled to about 0–5° C. About 1.5 g of ice cooled nitric acid (70% concentration was used, though this is not necessary) was added dropwise. The reaction was held at 0–5° C. for about one hour then poured into water. The pH was then adjusted to about 7–8 with ammonia and the solids were isolated by filtration. The solids were washed with water then dried in vacuo. The product was further purified by chromatography then dried in vacuo. 1H NMR 1.08 (t, 3H, J=7.2 Hz), 3.19 (m, 2H), 6.92 (br s, 1H), 8.26 (s, 1H), 8.31 (s, 1H), LC/MS 3.72 min, 302 (M+1)

reactant | N-(6-chloro-1,3-benzothiazol-2-yl)-N′-ethylurea | Three grams | ClC1=CC2=C(N=C(S2)NC(=O)NCC)C=C1 | C10H10ClN3OS
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | about 15 mL | S(O)(O)(=O)=O | H2O4S
product | N-(6-Chloro-5-nitro-1,3-benzothiazol-2-yl)-N′-ethylurea | ClC1=CC2=C(N=C(S2)NC(=O)NCC)C=C1[N+](=O)[O-] | C10H9ClN4O3S
